US04069325
Milliliter of acetyl chloride was added dropwise, while stirring and cooling with an ice mixture, to a solution of 1.36 g of 3-carbomethoxyamino-7-(3-trifluoromethyl-phenylsulfonyloxy)-1H-2,1,4benzothiadiazine in 20 ml of pyridine. After the mixture had been stirred for 2 hours at 0° C, 1 ml of acetyl chloride was added once more. After another hour of stirring at 0° C, the reaction mixture was diluted with water. It was then shaken with ethyl acetate, and the extract was washed with saturated sodium chloride solution. After evaporation of the solvent, the residue was isolated by trituration with methanol and filtration. 1-Acetyl-3-carbomethoxy-amino-7-(3-trifluoromethyl-phenylsulfonyloxy)-1H-2,1,4-benzothiadiazine was obtained in a yield of 1.0 g.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 3-carbomethoxyamino-7-(3-trifluoromethyl-phenylsulfonyloxy)-1H-2,1,4benzothiadiazine | 1.36 g | C(=O)(OC)NC=1SNC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F | C16H12F3N3O5S2
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-Acetyl-3-carbomethoxy-amino-7-(3-trifluoromethyl-phenylsulfonyloxy)-1H-2,1,4-benzothiadiazine | C(C)(=O)N1SC(=NC2=C1C=C(C=C2N)OS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C(=O)OC | C18H14F3N3O6S2
